US08048909B2
1-{1-[(4-Methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride
1-[(4-Methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde (240 mg) was dissolved in methanol (5 mL), methylammonium chloride (856 mg) and sodium cyanoborohydride (131 mg) were added, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate was added to the residue; and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=6:1→ethyl acetate). The obtained oil was dissolved in ethyl acetate (5 mL), 4 mol/L hydrogen chloride-ethyl acetate solution (0.5 mL) was added, and the mixture was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give the title compound as colorless crystals (yield 148 mg, 54%).

reactant | 1-[(4-Methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | 240 mg | COC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C18H15NO4S
reactant | methylammonium chloride | 856 mg | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 131 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-{1-[(4-Methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride | yield 148 mg, 54% | Cl.COC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | InChI=1S/C19H20N2O3S.ClH/c1-20-13-15-12-19(16-6-4-3-5-7-16)21(14-15)25(22,23)18-10-8-17(24-2)9-11-18;/h3-12,14,20H,13H2,1-2H3;1H
